US04367238
Powdered potassium cyanide (2.05 g) was added to a solution of 2-chlorophenyl 3-chloromethyl-4-methoxyphenyl ether (8.5 g) and sodium iodide (4.7 g) in dimethyl sulfoxide (50 ml) at room temperature and stirred at the same temperature for an hour and then at 70° C. for 40 minutes. The reaction mixture was treated in a similar manner to that of Example 3-(7) to give oily 2-[2-methoxy-5-(2-chlorophenoxy)phenyl]acetonitrile (4.7 g).

reactant | potassium cyanide | 2.05 g | [C-]#N.[K+]
reactant | 2-chlorophenyl 3-chloromethyl-4-methoxyphenyl ether | 8.5 g | ClCC=1C=C(C=CC1OC)OC1=C(C=CC=C1)Cl | C14H12Cl2O2
reactant | sodium iodide | 4.7 g | [I-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-5-(2-chlorophenoxy)phenyl]acetonitrile | 4.7 g | COC1=C(C=C(C=C1)OC1=C(C=CC=C1)Cl)CC#N | C15H12ClNO2
